### PR TITLE
feat(ErdosProblems): 829

### LINKED ISSUE #2126: Erdős Problem 829: Polylogarithmic bound on the convolution of cube indicator functions
### What is the conjecture

 Let $A \subset \mathbb{N}$ denote the set of perfect cubes. Let $1_A : \mathbb{N} \to \mathbb{Z}$ be the indicator function of $A$ (i.e., $1_A(n) = 1$ if $n$ is a perfect cube, and $1_A(n) = 0$ otherwise). The Dirichlet convolution of $1_A$ with itself is defined as:

$$1_A \ast 1_A(n) = \sum_{d \mid n} 1_A(d) \cdot 1_A(n/d)$$

This counts the number of ways to express $n$ as a sum of two perfect cubes (counting order and allowing repetition). The conjecture asks whether this count grows at most polylogarithmically in $n$:

$$1_A \ast 1_A(n) \ll (\log n)^{O(1)}$$

That is: is there a constant $C$ such that $1_A \ast 1_A(n) = O((\log n)^C)$ for all sufficiently large $n$?

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://www.erdosproblems.com/829

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-02)

Building blocks (from Mathlib):
- `ArithmeticFunction` (type for number-theoretic functions from ℕ to a ring)
- `Nat.divisorsAntidiagonal` (for computing Dirichlet convolution)
- `Set.indicator` (for indicator functions)

Missing pieces:
- Definition of "perfect cube" predicate (can be written as `∃ k, n = k ^ 3`)
- Formalization of the representation counting function (the Dirichlet convolution of indicators)

Rating justification: The core building blocks (arithmetic functions, Dirichlet convolution, indicator functions) all exist in Mathlib. Only a simple definition of perfect cubes and a straightforward application of the convolution operation are needed to state the problem. The statement itself is readily formalizable once these minor helpers are in place.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by MavenRain**
## Statement

  Let A ⊆ ℕ be the set of perfect cubes.  Then 1_A ∗ 1_A is the additive
  convolution of 1_A with itself:

  (1_A ∗ 1_A)(n)  =  #{ (x, y) ∈ ℕ × ℕ : x³ + y³ = n }

  That is, the number of representations of n as a sum of two perfect cubes.
  The conjecture asks whether (1_A ∗ 1_A)(n) ≪ (log n)^O(1) as n → ∞.

  ## Note on the issue body

  The issue body (#2126) describes ∗ via Σ_{d | n}, which is the Dirichlet
  (multiplicative) convolution rather than the additive one, and then describes
  the result as counting sums of two cubes.  Those two characterisations are
  inconsistent.  Per the canonical statement on
  [erdosproblems.com/829](https://www.erdosproblems.com/829) ("Let A⊂ℕ be the
  set of cubes.  Is it true that 1_A∗1_A(n) ≪ (log n)^O(1)?"), ∗ is the additive
   convolution and the result counts representations x³ + y³ = n.  This PR
  follows the canonical interpretation.

  Closes #2126.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/829.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+
+namespace Erdos829
+
+/--
+The additive convolution of the indicator of the set of cubes with itself, evaluated at $n$.
+This counts ordered pairs $(x, y) \in \mathbb{N} \times \mathbb{N}$ with $x^3 + y^3 = n$,
+equivalently the number of representations of $n$ as a sum of two perfect cubes.
+-/
+noncomputable def r (n : ℕ) : ℕ :=
+  Set.ncard {p : ℕ × ℕ | p.1 ^ 3 + p.2 ^ 3 = n}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/829.lean]: can you check if you can reuse `FormalConjecturesForMathlib/Combinatorics/Additive/Convolution.lean` instead of redefining here? perhaps define
 ```lean
/-- The set of perfect cubes in ℕ. -/
def cubes : Set ℕ := {n | ∃ k, k ^ 3 = n}
```
and then use `sumRep (Cubes n)`  or similar?

File: FormalConjectures/ErdosProblems/829.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 829
+
+*References:*
+- [erdosproblems.com/829](https://www.erdosproblems.com/829)
+- [Er83] Erdős, P. (1983), conjecture on the convolution of indicator functions of cubes.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/829.lean]: can we make this citation more precise?

File: FormalConjectures/ErdosProblems/829.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/829.lean:1]: potentially add the other statements from the additional material or leave a TODO at least.

**Review by mo271 — COMMENTED** [review]
Thanks! 
This looks mathematically correct, just a few comments about re-using existing definitions and some other small remarks

File: FormalConjectures/ErdosProblems/829.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
...
+open Asymptotics Filter
+
+namespace Erdos829
+
+/--
+The additive convolution of the indicator of the set of cubes with itself, evaluated at $n$.
+This counts ordered pairs $(x, y) \in \mathbb{N} \times \mathbb{N}$ with $x^3 + y^3 = n$,
+equivalently the number of representations of $n$ as a sum of two perfect cubes.
+-/
+noncomputable def r (n : ℕ) : ℕ :=
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/829.lean]: let's perhaps add tests like the following:

```
/-- There is exactly one representation of 0 as a sum of two cubes: (0,0). -/
@[category test, AMS 11]
theorem r_zero : r 0 = 1 := by
  sorry
/-- There is no way to write 3 as a sum of two cubes. -/
@[category test, AMS 11]
theorem r_three : r 3 = 0 := by
  sorry
/-- r(2) = 2: the representations 1³+1³ = 2 give (1,1). Actually only (1,1). -/
@[category test, AMS 11]
theorem r_two : r 2 = 1 := by
  sorry
/-- r(1729) ≥ 4: Hardy–Ramanujan taxicab number 1729 = 1³+12³ = 9³+10³,
    giving ordered pairs (1,12), (12,1), (9,10), (10,9). -/
@[category test, AMS 11]
theorem r_taxicab : r 1729 = 4 := by
  sorry
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM now!

**Comment by mo271** [comment]
(it makes review easier, if you click "Resolve conversation" for those conversations that are resolved.)
